US05576359
Using 1,2-dihydroxy-10-anthrone (2.26 g) and 4-benzyloxybenzoyl chloride (8 g) obtained in Synthesis Example 1, (2), the reaction was carried out in the same manner as described in Synthesis Example 1, (3). The crude solid (3.5 g) was chromatographed on silica gel (Wakogel C-200, a trade name, mfd. by Wako Pure Chemical Industries, Ltd.) with n-hexane/methylene chloride [4/1→2/1→1/1 (v/v)] as eluent to give 1.6 g of 1,2,10-tris(4-benzyloxybenzoyloxy)anthracene as yellow crystals.

reactant | 1,2-dihydroxy-10-anthrone | 2.26 g | OC1=C(C=CC=2C(C3=CC=CC=C3CC12)=O)O | C14H10O3
reactant | 4-benzyloxybenzoyl chloride | 8 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)Cl)C=C1 | C14H11ClO2
product | 1,2,10-tris(4-benzyloxybenzoyloxy)anthracene | 1.6 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)OC2=C(C=CC3=C(C4=CC=CC=C4C=C23)OC(C2=CC=C(C=C2)OCC2=CC=CC=C2)=O)OC(C2=CC=C(C=C2)OCC2=CC=CC=C2)=O)C=C1 | C56H40O9
